Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I almost drank bleach"
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ is a  ___ year old with past psychiatric history of
ADHD, MDD and trichotillomania who presented to the ___ ED 
with
suicidal ideation and recent near suicide attempt.

The patient reports multiple psychosocial stressors over the 
past
six months (outlined below) with worsening depressive symptoms
and increasing social isolation. The ___ before presentation
(___) the patient had an appointment with her outpatient
PCP ___ but was unable to
make the appointment due to a snowstorm (despite her wishes to
make the appointment). The following day (___) the patient's
college friends attended an ___ without her and she felt
increasingly lonely. From 18:30 to 01:30 the following morning
she strongly considered drinking a bottle of bleach in an 
attempt
to kill herself. She describes a cycle in which she put the
bottle on a table and "stared" at it trying to decide if she
would kill herself, then putting the bottle away and pacing in
her dorm before repeating the cycle. At the time she viewed
suicide as a way of escaping her depressive symptoms. She 
reports
that she eventually decided not to attempt suicide because she
thought it would be "selfish" to do so and would make her 
parents
and friends depressed. When reflecting on this event she states
"I don't want to die. I just don't want to feel this way." She
reports that if she returns home today she is "not sure what
would happen" and does not feel that she would be safe if she
returned to her dorm.

The day prior to presentation (___) she had an appointment
with her PCP. In that appointment she reported
worsening depression but did not mention the events of ___.
She was prescribed an anti-depressant at that appointment. The
patient believes this medication is Citalopram and she took one
dose the evening before admission which made her "arms feel
light" and improved her anxiety somewhat. On the day of
presentation she had an initial appointment with her new 
therapist ___.
In that appointment the patient spoke about her near suicide
attempt on ___ and the therapist told the patient to come to
the ED for further care.

The patient reports that since she was ___ years old she pulled
hair out hair on her head in a ritual that "relieved tension."
She did not start any treatment at the time but reports her
parents "knew [she] was depressed" because of this behavior. By
the time she was in high school she realized she had been
depressed and anxious since at least ___ years old but was
unaware that these were unusual thoughts. In high school she
began to see a therapist which she thought was helpful but she
has not taken any anti-depressants until ___.

This past ___ the patient started a relationship with a
college ___ (studying in ___ with whom she had
previously been close. Both the patient and this man were on
school break and initially decided not to continue the
relationship past ___ break but both decided they wanted to
continue dating. On ___ Day the patient had dinner with
the man's family. The following day he broke up with her stating
that he is a senior in college and wants to be single. The
patient found this very distressing. The following week one of
her professors expressed concern that the patient was not
"putting her all" into her art and suggested the patient may be
better off in another field. She does not think the professor
meant to be malicious but was distraught nonetheless. The
following week she had finals then went on Winter break.

During break she made a "bucket list" of things she wanted to do
before committing suicide. Later on in break she had a panic
attack characterized by tachypnea, tachycardia, diaphoresis,
nausea, and chest pain which resulted in the patient passing out
for reportedly an hour. On reflecting she believes this may have
been a positive event in that it showed her parents that she has
" a problem." The parents have not been very supportive of her
psychiatric diagnoses stating that she should "get over" her
depression and that other people have "real problems." Since
returning to school from break she has isolated herself from
friends and family to an increasing degree leading up to the
aforementioned near suicide attempt.

The patient endorses symptoms of depression including depressed
mood, fatigue, loss of energy, anhedonia, low motivation, 
thoughts
of death/SI, insomnia, loss of appetite recently (until ___
after which time she has had elevated appetite), and poor
concentration.  The patient denies symptoms of mania including
impulsive behavior or decreased need for sleep (she has slept
less but has been negatively affected by this insomnia).  The
patient also denies psychotic symptoms such as auditory or 
visual
hallucinations, paranoia, or delusions.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
 - Prior diagnoses: ADHD, MDD, Trichotillomania
 - Hospitalizations: none
 - Current treaters and treatment: Had been seeing ___ 
in ___ previously ___ to senior year in high school)
 - Medication and ECT trials: Citalopram (one dose on ___
 - Suicide attempts: denies. Positive suicidal ideation
intermittently since childhood
 - Self-injurious behavior: Trichotillomania (reduces 
"tension").
Denies cutting or other self-harm
 - Harm to others: denies
 - Access to weapons: denies

PAST MEDICAL HISTORY:
No history of seizures. History of concussion in ___ grade after
falling on ice.

Primary Care Physician: ___ in ___ (Dr. 
___ had just started seeing Dr. ___ in ___. 
 
Social History:
___
Family History:
- ADHD in father and brother
- ___ in mother and maternal grandmother
- ___ in paternal aunt
 
Physical ___:
* General: Well-nourished, well-developed, in no apparent
distress. Appears stated age. 
* HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
* Neck: Supple, trachea midline. No adenopathy or thyromegaly.
* Back: No significant deformity, no focal tenderness.
* Lungs: Clear to auscultation bilaterally.
* CV: RRR no m/r/g.
* Abdomen: soft, not tender, not distended.
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry, no rashes, scars, or lesions.

Neurological:
 *Cranial Nerves
  I: Not tested.
  II, III, IV, VI: visual acuity grossly intact. PERRLA, EOMI,
VFI, no nystagmus.
  V, VII: Facial strength and sensation intact and symmetric.
  VIII: Hearing intact to voice.
  IX, X: Palatal elevation symmetrical.
  XI: Sternocleidomastoid and trapezius normal bilaterally.
  XII: Tongue midline without fasciculations.

 *Motor- Normal and symmetric bulk and tone, grossly symmetric
movements with no visible focal weakness, no adventitious
movements.
 *Coordination- Normal on finger-nose-finger.
 *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
 *Sensation- intact to light touch, position sense intact.
 *Gait- steady, no truncal ataxia, normal stance and posture.
 *Romberg- negative.

 
Pertinent Results:
___ 01:00PM   GLUCOSE-90 UREA N-7 CREAT-0.7 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-24 ANION GAP-15
___ 01:00PM   estGFR-Using this
___ 01:00PM   VIT B12-558 FOLATE-14.0
___ 01:00PM   TSH-1.3
___ 01:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:00PM URINE  HOURS-RANDOM
___ 01:00PM URINE  UCG-NEGATIVE
___ 01:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS oxycodn-NEG mthdone-NEG
___ 01:00PM   WBC-6.4 RBC-4.81 HGB-14.6 HCT-43.7 MCV-91 
MCH-30.4 MCHC-33.4 RDW-11.9 RDWSD-39.5
___ 01:00PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 01:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM 
___ 01:00PM URINE  RBC-1 WBC-5 BACTERIA-NONE YEAST-NONE 
EPI-9
___ 01:00PM URINE  AMORPH-OCC
___ 01:00PM URINE  MUCOUS-MOD
 
Brief Hospital Course:
1.) Legal/Safety:
- Patient signed CV on admission and was on Q15 min checks, unit 
restricted, and green sharps status throughout her hospital 
stay. 

2.) Psychiatric:
# Major depressive disorder and unspecified anxiety disorder: 
Ms. ___ was admitted with suicidal ideation in the setting of 
multiple social stressors. She did well on the unit. She no 
longer had suicidal thoughts, her appetite/sleep/energy 
improved, was eager for therapy, experienced a decrease in her 
hair pulling, and was very future-oriented (finding a job, 
re-enrolling in college in the fall, studying to be an 
___). She was started on fluvoxamine (uptitrated 
to 100 mg daily), trazodone (uptitrated to 50 mg nightly), and 
hydroxyzine 25 mg daily prn for anxiety to good effect and 
without side effects. 

#Trichotillomania: Patient was started on fluvoxamine 
(uptitrated to 100 mg daily) to good effect and without side 
effects and experienced a decrease in hair pulling on the unit. 

3.) Medical:
# OCP use: Patient continued home Lutera on the unit. 

4.) PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patient's therapist, ___, was contacted throughout 
the admission and updated on how the patient was doing and the 
plan. She also helped confirm the patient's past medical 
history. Ms. ___ will continue to see the patient on 
discharge. The patient's family (mother and father) were 
contacted and updated throughout the admission and closely 
worked with SW. A formal family meeting took place prior to 
discharge on ___ to finalize the discharge plan (new 
medications, ongoing therapy with ___, partial program 
upon discharge). 

#) INTERVENTIONS
- Medications: fluvoxamine 100 mg daily, trazodone 50 mg 
nightly, hydroxyzine 25 mg daily prn for anxiety
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Ongoing therapy with ___ 
and partial program upon discharge
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
DBT partial program upon discharge

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon ongoing depression 
and anxiety and suicidal ideation.  Their static factors noted 
at that time included history of chronic mental illness, 
Caucasian race, young age, and single status. Their modifiable 
risk factors were addressed and included resolution of suicidal 
ideation, initiation of appropriate pharmacotherapy, and 
solidification and connection to outpatient providers and 
programs. Finally, the patient is being discharged with many 
protective risk factors,  which include help-seeking nature, 
future-oriented viewpoint, strong family support, reality 
testing ability, good coping skills, good problem-solving 
skills, positive therapeutic relationship with outpatient 
providers, lack of suicidal ideation, no history of substance 
use disorder, no history of abuse. Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 

Our prognosis of this patient is very good given that she is 
currently at low-risk for self-harm, no longer requires 
inpatient hospitalization, and will do well on an outpatient 
basis with ongoing therapy, family support, and close 
psychiatric follow-up. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO DAILY 
2. Amphetamine-Dextroamphetamine XR 30 mg PO DAILY 
3. Lutera (28) (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg 
oral DAILY 

 
Discharge Medications:
1. Fluvoxamine 100 mg daily
2. Trazodone 50 mg nightly
3. Hydroxyzine 25 mg daily prn anxiety
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder 
Unspecified anxiety disorder
Trichotillomania

 
Discharge Condition:
- Appearance: well-groomed young woman appearing her stated age.
She is dressed in her street clothes and cooperative and
forthcoming in the interview. Good eye contact.  Hair is 
somewhat
pulled out but combed over.
- Behavior: Cooperative and expressive in interview.
- Mood and Affect: 'good' / Appears euthymic with a reactive
affect consistent with her stated mood
- Thought process: Linear, goal-oriented; focused on talking
about issues around depression, low self-esteem and
trichotillomania
- Thought Content: Denies active SI/HI/AVH
- Judgment and Insight: good/good
- Cognition:
   - Attention, orientation, and executive function: Attentive
to interview, oriented to context and history
   - Memory: Intact to history
   - Fund of knowledge: Appropriate
   - Speech: Regular rate, rhythm, and volume.
   - Language: Fluent ___

Ambulation: independent without safety concerns. 

 
Discharge Instructions:
You were hospitalized at ___ for suicidal ideation.  We 
adjusted your medications, and you are now ready for discharge 
and continued treatment on an outpatient basis.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___